US07414128B2
2-(10H-Phenoxazin-10-yl)-1-ethanol
A solution of ethyl-2-(10H-phenoxazin-10-yl)acetate (5.5 g, 20.44 mmol) in dry tetrahydrofuran (20 ml) was added dropwise to a suspension of lithium aluminum hydride (1.16 g, 30.52 mmol) in dry tetrahydrofurane (20 ml) at 0° C. The reaction mixture was warmed to room temperature and stirred for additional 1 h. The excess lithium aluminum hydride was quenched with a solution of saturated sodium sulfate at 0° C. The reaction mixture was filtered and the residue was washed with hot ethyl acetate (2×75 ml). The combined organic layers were dried (Na2SO4), filtered and the solvent was evaporated under reduced pressure to afford the title compound (4.6 g, 99%) as a colourless solid. The compound is used in the next step without further purification. mp: 113-115° C.

reactant | ethyl-2-(10H-phenoxazin-10-yl)acetate | 20.44 mmol, 5.5 g | C(C)OC(CN1C2=CC=CC=C2OC=2C=CC=CC12)=O | C16H15NO3
reactant | lithium aluminum hydride | 30.52 mmol, 1.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | 2-(10H-Phenoxazin-10-yl)-1-ethanol | 4.6 g, 99% | C1=CC=CC=2OC3=CC=CC=C3N(C12)CCO | C14H13NO2
